* source MULTIPLEXEUR
V_V2         VA1 0 2V
V_V4         VA3 0 4V
V_V3         VA2 0 3V
V_V5         VA4 0 5V
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N57078 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 5ms 1  
V_V6         VDD 0 5V
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N56974 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2.5ms 1  
+ 5ms 0  
+ 7.5ms 1 
X_U1         VA1 VA2 VA3 VA4 0 0 0 0 N57078 N56974 VDD OUT 0 VDD 0 0 ADG409 
