* source PORJET_COURT
V_V1         VCC 0 5V
X_R15         0 N36946 N36011 POT PARAMS: SET=0.5 VALUE=100
X_U1         N36826 0 N36950 0 N36306 VCC N36123 N36897 LM386 
V_V2         N36011 0  AC 1
+SIN 0 0.014 1k 0 0 0
C_C1         N36826 N36897  10u  TC=0,0 
C_C2         N36946 N36950  10u  TC=0,0 
C_C3         0 N36123  10u  TC=0,0 
C_C4         N36306 OUT  220u  TC=0,0 
C_C5         N37235 N36306  47n  TC=0,0 
R_R16         0 N37235  10 TC=0,0 
R_R17         OUT 0  10MEG TC=0,0 
R_R18         OUT 0  10k TC=0,0 
R_R19         VCC OUT  10k TC=0,0 
